US07129208B2
To a solution of (C18H37)2NCOCH2OCH2COOH (1.0 g, 1.5 mmol) in CH2Cl2 (30 mL) was added 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (0.31 g, 1.6 mmol) and the reaction was stirred at room temperature. After 0.5 h, Gly-OCH2Ph.TsOH (0.53 g, 1.5 mmol) and Et3N (0.6 mL) were added and the mixture was stirred overnight. The reaction mixture was washed with water (20 mL), 0.5 M aqueous HCl (20 mL), water (20 mL), 10% aqueous Na2CO3 (20 mL), and brine (20 mL) then dried over MgSO4, evaporated and the residue crystallized from MeOH yielding (C18H37)2NCOCH2OCH2CO-Gly-OCH2Ph as a deliquescent white solid (0.86 g, 70%), mp 38–40° C. 1H-NMR (300 MHz, δ, CDCl3) 0.86 (6H, t, J=6.9 Hz), 1.24 (64H, m), 1.50 (4H, bs), 3.06 (2H, t, J=7.5 Hz), 3.28 (2H, t, J=7.5 Hz), 4.10 (2H, s), 4.12 (2H, s), 4.25 (2H, s), 5.15 (2H, s), 7.33 (5H, m), 8.20 (1H, t, J=5.7 Hz). 13C-NMR (75 MHz, 6, CDCl3): 14.2, 22.7, 26.9, 27.1, 27.6, 29.0, 29.39, 29.44, 29.5, 29.6, 29.7, 29.8, 32.0, 40.8, 46.3, 47.0, 67.1, 69.7, 71.8, 128.5, 128.6, 128.8, 135.3, 168.5, 169.8, 170.6.

reactant | (C18H37)2NCOCH2OCH2COOH | 1.5 mmol, 1.0 g | N(CCCCCCCCCCCCCCCCCC)(CCCCCCCCCCCCCCCCCC)C(=O)COCC(=O)O | C40H79NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 1.6 mmol, 0.31 g | Cl.CN(CCCN=C=NCC)C
reactant | Gly-OCH2Ph | NCC(=O)OCC1=CC=CC=C1 | C9H11NO2
reactant | TsOH | 1.5 mmol, 0.53 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | 0.6 mL | CCN(CC)CC | C6H15N
product | (C18H37)2NCOCH2OCH2CO-Gly-OCH2Ph | 0.86 g, 70% | N(CCCCCCCCCCCCCCCCCC)(CCCCCCCCCCCCCCCCCC)C(=O)COCC(=O)NCC(=O)OCC1=CC=CC=C1 | C49H88N2O5
